US06586447B1
1E. 4-[6-(4-Cyano-phenyl)-2-oxo-2,3-dihydro-indol-1-ylmethyl]-N,N-dimethyl-benzenesulfonamide
4-(6-Bromo-2-oxo-2,3-dihydro-indol-1-ylmethyl)-N,N-dimethyl-benzenesulfonamide (1.60 g, 4.24 mmol) and tetrakis(triphenylphosphine)palladium (0) (195 mg, 0.17 mmol) were dissolved in a solution of 25 ml of toluene and 4 ml of EtOH under an atmosphere of dry N2. To the reaction mixture was added a solution of aqueous sodium carbonate (Na2CO3) (1.03 g, 9.75 mmol) dissolved in 6 ml of water followed by 4-cyanobenzene boronic acid (1.55 g, 10.6 mmol). The reaction mixture was heated to 100° C. and stirred at this temperature overnight. The reaction mixture was concentrated under vacuum and then partitioned between DCM and saturated aqueous NaHCO3. The DCM layer was dried over MgSO4, filtered and concentrated under vacuum to give a brown oil. The brown oil was chromatographed on silica gel eluting with a gradient from DCM to DCM/MeOH (98:2) to give 1.15 g of the titled compound as an orange solid in 63% yield.

reactant | 4-(6-Bromo-2-oxo-2,3-dihydro-indol-1-ylmethyl)-N,N-dimethyl-benzenesulfonamide | 4.24 mmol, 1.60 g | BrC1=CC=C2CC(N(C2=C1)CC1=CC=C(C=C1)S(=O)(=O)N(C)C)=O | C17H17BrN2O3S
reactant | sodium carbonate | 9.75 mmol, 1.03 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-cyanobenzene boronic acid | 10.6 mmol, 1.55 g | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 4 ml | CCO | C2H6O
solvent | water | 6 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.17 mmol, 195 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[6-(4-Cyano-phenyl)-2-oxo-2,3-dihydro-indol-1-ylmethyl]-N,N-dimethyl-benzenesulfonamide | 1.15 g, 63% yield | C(#N)C1=CC=C(C=C1)C1=CC=C2CC(N(C2=C1)CC1=CC=C(C=C1)S(=O)(=O)N(C)C)=O | C24H21N3O3S
